US06869913B1
To a mixed aqueous solution of 5.3 g (53.5 mmol) of sodium acetate and about 100 ml of water was added under ice cooling 6.6 g (24.3 mmol) of 1,1-dibromo-3,3,3-trifluoroacetone, and the reaction was allowed to proceed at 70° C. for 20 minutes. Then, the reaction mixture was cooled to room temperature. Separately, 5.8 g (21.5 mmol) of crude ethyl 2-chloro-fluoro-5-hydrazinobenzoate hydrochloride was dissolved in 30 ml of water, to which 100 ml of diethyl ether was added, and while cooling, the mixture was neutralized by the addition of saturated sodium hydrogencarbonate solution, followed by washing with saturated sodium chloride solution, which afforded a solution of ethyl 2-chloro-4-fluoro-5-hydrazinobenzoate in diethyl ether. This solution was added to the above reaction mixture, followed by vigorous stirring at room temperature for 2 hours. The ether layer was separated, washed once with 10 ml of saturated sodium chloride solution, and dried with magnesium sulfate. The diethyl ether was distilled out. The residue was dissolved in 50 ml of THF, to which 8.3 g (23.0 mmol) of carbethoxyethylidenetriphenylphosphorane was added, and the mixture was heated under reflux for 2 hours. The THF was distilled out under reduced pressure, and the residue was subjected to silica gel column chromatography, which afforded 3.8 g (10.0 mmol) of compound 1-642.

reactant | sodium acetate | 53.5 mmol, 5.3 g | C(C)(=O)[O-].[Na+]
reactant | 1,1-dibromo-3,3,3-trifluoroacetone | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | ethyl 2-chloro-fluoro-5-hydrazinobenzoate hydrochloride | 21.5 mmol, 5.8 g | Cl.ClC1=C(C(=O)OCC)C=C(C=C1F)NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 30 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | about 100 ml | O | H2O
product | ethyl 2-chloro-4-fluoro-5-hydrazinobenzoate | ClC1=C(C(=O)OCC)C=C(C(=C1)F)NN | C9H10ClFN2O2
